US04042621
By essentially the procedure of Example 1, a tube was charged with 40 g of methyldiphenylamine and 2.0 g CuCl2. 2H2O. The reaction was run at 115°-125° C. for 2 hr at 290-400 psi. About 0.1 mole of oxygen was injected incrementally. GC/MS analysis showed a 98.6% conversion of methyldiphenylamine and a 43.3% yield of diphenylformamide.

reactant | methyldiphenylamine | 40 g | CN(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | oxygen | 0.1 mole | O=O | O2
product | diphenylformamide | 43.3% yield | C1(=CC=CC=C1)N(C=O)C1=CC=CC=C1 | C13H11NO
